US04150139
Under ice-cooling and stirring, 0.224 g of m-chloroperbenzoic acid was added to a solution of 0.243 g of 3-methylthio-11H-s-triazolo[3,4-b][3]benzazepine in 4 ml of dichloromethane. The mixture was stirred for 30 minutes, after which 0.035 g of m-chloroperbenzoic acid was further added. After additional stirring for 1 hour, the reaction mixture was shaken well with an aqueous solution of sodium sulfite and a saturated aqueous solution of sodium hydrogen carbonate. The dichloromethane layer was washed with water and dried over Na2SO4. The solvent was evaporated off and the crystalline precipitate was recovered by filtration and washed with ethyl acetate. The above procedure gave 3-methylsulfinyl-11H-s-triazolo[3,4-b][3]benzazepin-11-one as crystals. Recrystallization from chloroform-methanol yielded colorless needles, m.p. 208°-211° C.

reactant | m-chloroperbenzoic acid | 0.224 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 3-methylthio-11H-s-triazolo[3,4-b][3]benzazepine | 0.243 g | CSC1=NN=C2CC3=C(C=CN21)C=CC=C3 | C12H11N3S
reactant | m-chloroperbenzoic acid | 0.035 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | 3-methylsulfinyl-11H-s-triazolo[3,4-b][3]benzazepin-11-one | CS(=O)C1=NN=C2C(C3=C(C=CN21)C=CC=C3)=O | C12H9N3O2S
